US07517992B2
N-[(1S,1aR,7bR)-4,7-difluoro-1,1a,2,7b-tetrahydrocyclopropa[c]chromen-1-yl]-N′-[5-(3-fluorophenoxy)-2-pyridinyl]thiourea
(1S,1aR,7bR)-4,7-difluoro-1,1a,2,7b-tetrahydrocyclopropa[c]chromen-1-amine (20 mg, 0.1 mmol) was dissolved in dry acetonitrile (1 ml) and 5-(3-fluorophenoxy)-2-isothiocyanatopyridine (25 mg, 0.1 mmol) was added and the reaction mixture was stirred at ambient temperature for 12 h. The precipitate formed was collected by filtration and washed with acetonitrile and diethyl ether to give 17 mg (38% yield) of pure product as beige powder.

reactant | (1S,1aR,7bR)-4,7-difluoro-1,1a,2,7b-tetrahydrocyclopropa[c]chromen-1-amine | 0.1 mmol, 20 mg | FC1=CC=C(C=2[C@H]3[C@@H](COC12)[C@H]3N)F | C10H9F2NO
reactant | 5-(3-fluorophenoxy)-2-isothiocyanatopyridine | 0.1 mmol, 25 mg | FC=1C=C(OC=2C=CC(=NC2)N=C=S)C=CC1 | C12H7FN2OS
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | N-[(1S,1aR,7bR)-4,7-difluoro-1,1a,2,7b-tetrahydrocyclopropa[c]chromen-1-yl]-N′-[5-(3-fluorophenoxy)-2-pyridinyl]thiourea | 17 mg, 38% yield | FC1=CC=C(C=2[C@H]3[C@@H](COC12)[C@H]3NC(=S)NC3=NC=C(C=C3)OC3=CC(=CC=C3)F)F | C22H16F3N3O2S
